US05569664
To a stirred solution of 0.50 gram (0.0008 mole) of N-(3-chloro-4-methoxyphenylcarbonyl)-4-[bis(4-trifluoromethoxyphenyl)hydroxymethyl]piperidine in 5 mL of tetrahydrofuran was slowly added 0.42 mL (0.0040 mole) of borane-methyl sulfide complex (10M in BH3). Upon completion of addition, the reaction mixture was stirred at ambient temperature for about 18 hours. The reaction mixture was then cooled in an ice-bath, and 20 mL of methanol was added slowly to quench the reaction. The reaction mixture was then concentrated under reduced pressure to a residue. Another 20 mL of methanol was stirred with the residue, and this was concentrated under reduced pressure to the residue. The process of adding 20 mL of methanol and concentrating the solution to the residue was repeated once more. The residue was partitioned between ethyl acetate and water, and the mixture was stirred for 15 minutes. The organic layer was separated, washed with an aqueous solution saturated with sodium chloride, and then dried with sodium sulfate. The mixture was filtered and concentrated under reduced pressure to a residue, which was subjected to column chromatography on silica gel, with mixtures of ethyl acetate in hexane as eluants. The product-containing fractions were combined and concentrated under reduced pressure, yielding 0.13 gram of N-(3-chloro-4-methoxyphenylmethyl)-4-[bis(4-trifluoromethoxyphenyl)hydroxymethyl]piperidine. The NMR spectrum was consistent with the proposed structure.

reactant | N-(3-chloro-4-methoxyphenylcarbonyl)-4-[bis(4-trifluoromethoxyphenyl)hydroxymethyl]piperidine | 0.0008 mole, 0.50 gram | ClC=1C=C(C=CC1OC)C(=O)N1CCC(CC1)C(O)(C1=CC=C(C=C1)OC(F)(F)F)C1=CC=C(C=C1)OC(F)(F)F | C28H24ClF6NO5
reactant | methanol | 20 mL | CO | CH4O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | N-(3-chloro-4-methoxyphenylmethyl)-4-[bis(4-trifluoromethoxyphenyl)hydroxymethyl]piperidine | 0.13 gram | ClC=1C=C(C=CC1OC)CN1CCC(CC1)C(O)(C1=CC=C(C=C1)OC(F)(F)F)C1=CC=C(C=C1)OC(F)(F)F | C28H26ClF6NO4
